Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.96466206191
[C:4](#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.54176138317
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],1.88252334843
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2],2.77064129362
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-3.80144972809
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.91586775211
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.36675102375
[C:1]1[C:2]([H:3])=[C:4]1[C:7]([H:8])([H:9])[H:10].[C:5]=[O:6]>>[C:1]=[C:2]([H:3])[C:4](=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],-0.0479036190195
[C:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[C:1]=[O:2].[C:3]([H:4])#[C:5][O:6][C:7]([H:8])[H:9],-3.50291204101
[C:1]#[C:2]>>[C:1].[C:2],5.98239255456
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:7][C:6]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]1[C:6][O:7]1,-1.60851214512
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.22568524431
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][C:7]([H:8])([H:9])[H:10].[O:3]=[C:4]([H:5])[H:6],1.27623613867
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13]>>[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13].[C:3]([H:4])([H:5])[H:6],3.4779950530300003
[H:11].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][H:11],-3.809133245990002
[C:3]([H:4])#[C:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.2373738427900003
[O:1]=[C:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]=[C:3]([H:4])[O:10][H:11],1.79817496251
[C:9][H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-7.02567149079
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11],3.9877535832
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-0.489870773059
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:9]([C:6][O:7][H:8])([H:10])[H:11]>>[H:1][O:2][C:3][C@@:4]1([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11],-0.21521622693000006
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][H:11]>>[H:9].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8][O:10][H:11],4.41777906906
[C:1].[C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.096795160259999
[H:1][C:2]([H:3])=[C:4]([H:5])[C:12]([H:13])([H:14])[H:15].[O:6]=[C:7]([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.1553463630389999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.0503244372400005
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.6226184840200002
[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.79814735147
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7][O:8][H:9]>>[H:1][C:2]=[C:3]1[C:4]([O:5][H:6])=[C:7]1[O:8][H:9],-2.59770135568
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],5.97243363089
